US07989444B2
10-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-methyl-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (120 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (224 mg) and was obtained according as a colourless slightly hygroscopic solid (163 mg).

reactant | 10-methyl-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 120 mg | CC1=C2C(=CC=3CCNCCC31)N=C(O2)C(F)(F)F | C13H13F3N2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 224 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 10-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC1=C2C(=CC=3CCN(CCC31)CCCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C(F)(F)F | InChI=1S/C30H31F3N6OS.ClH/c1-18-9-10-22-23(7-6-8-24(22)34-18)27-36-37-29(38(27)3)41-16-5-4-13-39-14-11-20-17-25-26(19(2)21(20)12-15-39)40-28(35-25)30(31,32)33;/h6-10,17H,4-5,11-16H2,1-3H3;1H
